US09340556B2
To a solution of 2-(hydroxymethyl)-5-((4-methoxybenzyl)oxy)-4H-pyran-4-one (2.57 g, 9.80 mmol) in chloroform (45 ml) was added dimethyl sulfoxide (12 ml) and triethylamine (8.20 ml, 58.8 mmol). The mixture was cooled to 0° C., and sulfur trioxide, pyridine salt (3.96 ml, 49.0 mmol) was added. The mixture was allowed to warm to room temperature and stirred for 20 h. The resulting precipitate was filtered and washed with water. The filtrate was washed with water and the phases were separated. The organic layer was concentrated and combined with the precipitate. Water (20.0 ml), acetone (20.0 ml) and sulfamic acid (1.431 g, 14.74 mmol) were added, followed by sodium chlorite (1.332 g, 14.73 mmol) and the mixture was allowed to stir at room temperature for 70 h. The resulting precipitate was filtered, washed with water and acetone, and dried to give, 5-((4-methoxybenzyl)oxy)-4-oxo-4H-pyran-2-carboxylic acid (1.466 g, 5.31 mmol, 54.2% yield) as white solid. LCMS: (M+Na)+: 299.0.

reactant | 2-(hydroxymethyl)-5-((4-methoxybenzyl)oxy)-4H-pyran-4-one | 9.80 mmol, 2.57 g | OCC=1OC=C(C(C1)=O)OCC1=CC=C(C=C1)OC | C14H14O5
reactant | triethylamine | 58.8 mmol, 8.20 ml | C(C)N(CC)CC | C6H15N
reactant | sulfamic acid | 14.74 mmol, 1.431 g | S(N)(O)(=O)=O | H3NO3S
reactant | sodium chlorite | 14.73 mmol, 1.332 g | Cl(=O)[O-].[Na+]
solvent | chloroform | 45 ml | C(Cl)(Cl)Cl | CHCl3
solvent | acetone | 20.0 ml | CC(=O)C | C3H6O
solvent | Water | 20.0 ml | O | H2O
solvent | dimethyl sulfoxide | 12 ml | CS(=O)C | C2H6OS
product | 5-((4-methoxybenzyl)oxy)-4-oxo-4H-pyran-2-carboxylic acid | 5.31 mmol, 1.466 g, 54.2% yield | COC1=CC=C(COC=2C(C=C(OC2)C(=O)O)=O)C=C1 | C14H12O6
